US06599902B2
Synthesis of 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2,2,2-Trifluoro-ethyl)-amide
A mixture of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (100 mg, 0.2 mmol), HOBt (32 mg, 1.2 eq.), EDAC.HCl (45 mg, 1.2 eq.), TEA (0.068 mL, 2.5 eq.) and 2,2,2-trifluoro-ethylamine (48 mg, 2.5 eq.) in DMF (2 mL) was stirred at rt for 7 days. The reaction was concentrated, diluted with DCM, washed with sat. NaHCO3 and water, dried, concentrated and triturated with methanol to give the titled compound as a yellow solid.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.2 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | HOBt | 32 mg, 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 45 mg, 1.2 eq. | CCN=C=NCCCN(C)C.Cl
reactant | 2,2,2-trifluoro-ethylamine | 48 mg, 2.5 eq. | FC(CN)(F)F | C2H4F3N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2,2,2-Trifluoro-ethyl)-amide | FC(CNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C)(F)F | C25H20Cl2F3N3O4S
